US07910592B2
To a solution of (6-iodo-2,3-dihydro-1H-inden-5-yl)methanol (36 mg, 0.131 mmol) and carbon tetrabromide (52 mg, 0.158 mmol) in CH2Cl2 (1 mL) at 0° C. under N2, was added triphenylphosphine (41 mg, 0.158 mmol). The resulting solution was allowed to warm to room temperature and was stirred for 4 h. Another portion of carbon tetrabromide (52 mg, 0.158 mmol) and triphenylphosphine (41 mg, 0.158 mmol) was added to the mixture at 0° C. The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo. The residue was purified by flash chromatography (Si, 1% EtOAc in hexanes) to afford 5-(bromomethyl)-6-iodoindane. 1H NMR (500 MHz, CDCl3) δ 7.72 (s, 1H), 7.36 (s, 1H), 4.62 (s, 2H), 2.89 (m, 4H), 2.11-2.07 (m, 2H).

reactant | (6-iodo-2,3-dihydro-1H-inden-5-yl)methanol | 0.131 mmol, 36 mg | IC1=C(C=C2CCCC2=C1)CO | C10H11IO
reactant | carbon tetrabromide | 0.158 mmol, 52 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.158 mmol, 41 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.158 mmol, 52 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.158 mmol, 41 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-(bromomethyl)-6-iodoindane | BrCC=1C=C2CCCC2=CC1I | C10H10BrI
